Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cipro / levofloxacin / Macrobid
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
Liver biopsy ___

 
History of Present Illness:
___ y.o F who presents as a transfer from ___
with abdominal pain and chest pain. She reports that
approximately one week ago she had left sided chest pain
radiating to her left arm, but the pain resolved spontaneously.
She reports that a couple days ago, she began experience RUQ 
pain
and presented to ___. She subsequently underwent
CT scan which showed liver and pancreatic mass. She also had an
elevated troponin I to .178, for which she was transferred to
___. She denies any current chest pain, dyspnea, fevers. 

In the ED, initial VS were 97.8 76 158/71 20 95%. 
CBC WNL. BMP WNL. Troponin 0.04. LFTS WNL and lipase WNL.
She recieved PO acetaminophen and PO enalapril. 
Upon arrival to the floor, the patient tells the story as
follows.

Upon my evaluation, the patient tells the story as follows. She
reports she has had less abdominal pain in the setting of lying
down and not moving around. She reports she has been feeling
strange all week, with significant episodes of indigestion and
regurgitation that would wake her up at night. She tried tums
without significant improvement. She then developed severe RUQ
pain radiating to the back, worse with movement. She otherwise
denies vomiting, diarrhea, and bloody stools. She does not
worsening flank pain with inspiration. She reports she has a
history of UTIs but they are always asymptomatic. She denies
dysuria but endorses urinary frequency.

Of note, she was told by ___ she had a missed 
heart
attack in the setting of elevated troponin. She reports that she
did have a single episode within the last few weeks of pain in
her left arm that radiated to her chest. She has since been
ambulating without chest pain. 

She is aware of the imaging finding at ___ which shows a
cystic pancreatic mass and liver hypodensities. She expresses
understanding that this could be, or likely is cancer. She
reports that her goals would be to maintain an active lifestyle,
like she currently has, and she would like to have a year or two
longer if possible .

 
Past Medical History:
- HTN
- HLD
- Recurrent UTIs
- Vaginal hysterectomy
- Prior pituitary adenoma removal
- Hip replacement
- Ongoing back pain
 
Social History:
___
Family History:
Mother, age ___, leukemia. Father, age ___, heart
failure. No siblings.
 
Physical Exam:
ADMISSION EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes dry
CV: Heart regular, prominent S1, + systolic murmur at RLSB
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen minimally tender in the RUQ and right side
Back: No CVA tenderness
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
VITALS: Afebrile and vital signs stable
GENERAL: Alert and oriented x 3
EYES: Anicteric, PERRL
ENT: Ears and nose without visible erythema, masses, or trauma. 
Moist MM.
CV: RRR, IV/VI holosystolic murmur heard best at RUSB
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Soft, NT (x 4 quadrants), ND, +BS
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
__________________________

 
Pertinent Results:
Pertinent labs:

___ 06:38AM BLOOD WBC-5.8 RBC-3.75* Hgb-12.2 Hct-37.6 
MCV-100* MCH-32.5* MCHC-32.4 RDW-12.7 RDWSD-47.1* Plt ___
___ 03:43PM BLOOD Neuts-58.0 ___ Monos-11.2 Eos-2.4 
Baso-0.6 Im ___ AbsNeut-4.11 AbsLymp-1.96 AbsMono-0.79 
AbsEos-0.17 AbsBaso-0.04
___ 03:56PM BLOOD ___ PTT-30.4 ___
___ 06:38AM BLOOD Glucose-92 UreaN-10 Creat-0.5 Na-138 
K-4.0 Cl-102 HCO3-25 AnGap-11
___ 03:43PM BLOOD ALT-13 AST-32 AlkPhos-78 TotBili-0.4
___ 03:43PM BLOOD Lipase-34
___ 08:42PM BLOOD proBNP-531
___ 08:42PM BLOOD cTropnT-0.04*
___ 03:43PM BLOOD cTropnT-0.04*
___ 06:38AM BLOOD Calcium-8.6 Phos-2.8 Mg-2.0
___ 03:43PM BLOOD Albumin-4.2
___ 08:42PM BLOOD CEA-267.6*

MRCP ___.  Small masslike area of abnormal parenchymal signal in the 
neck of the  pancreas, suspicious for a hypoenhancing mass, as 
above.  This is associated  with focal narrowing of the 
pancreatic duct and post-stenotic duct dilatation. SMA and SMV 
are intact.  EUS with sampling is recommended. 
2.  Innumerable liver lesions with imaging characteristics 
consistent with liver metastases.  Index lesions, as above. 
3.  No evidence of metastatic disease to the abdomen and pelvis 
otherwise. 
4.  Multiple cystic pancreatic lesions with the largest 
measuring up to 13 mm in diameter.  The main pancreatic duct is 
not involved.  No high-risk stigmata. 

CT ___ Code)
Multiple ill-defined hepatic hypodensity suggestive of liver 
metastases. Relatively large cystic lesion involving the mid 
pancreas, and abnormal dilatation of the main pancreatic duct 
distal to this finding. This may reflect cystic pancreatic 
neoplasm. Consider pre-and post contrast abdominal MRI for 
further characterization. Moderate to large amounts of stool 
throughout the large bowel suggesting constipation. Sigmoid 
diverticulosis. Distended bladder. Tiny focus of anterior 
bladder gas, perhaps related to recent bladder intervention.

Pending:
Liver biopsy
CA ___ y.o F with history of HTN, HLD, presenting first to ___ 
with abdominal and recent chest pain, found to have pancreatic 
lesion with suspected liver metastases. 

# Suspected metastatic GI cancer, possibly pancreatic
# RUQ/back pain
Suspected mass in neck of pancreas on MRCP with post-stenotic 
duct dilation, as well as multiple cystic pancreatic lesions, 
and innumerable liver lesions. CEA elevated and CA ___ pending. 
Likely GI malignancy and likely pancreatic, although colorectal 
also quite possible (no history of colonoscopy). Pain suspected 
to be related to liver capsule or other mechanism of malignancy 
related pain, well controlled with Tylenol for mild to moderate 
pain and Tramadol for severe pain (with excessive movement). 
Underwent liver lesion biopsy on ___, with uncomplicated 
post-procedural course. She prefers to return home and be 
contacted about results as an outpatient this week to set up 
oncology follow-up. The oncology team plans to assist in this. 

# Elevated troponin
# Recent chest pain 
Patient with elevated troponin at Cap Cod (~3x ULN), trop 0.04 
x2 here at ___, without evidence of active ischemia on EKG or by 
symptoms. BNP wnl. However she had an episode of chest pain 
radiating to the L arm about one week ago. It only lasted a 
couple minutes per her report, so MI seems unlikely, although 
hypothetically her residual troponinemia could be from a cardiac 
event last week. PE felt to be unlikely. Discussed further 
cardiac work-up with echo vs stress, but patient did not wish to 
hold up discharge to pursue these tests. Continued home statin 
but held off on addition of other agents at this time given 
uncertainty of diagnosis. Plan for outpatient TTE with her 
primary care doctor.

# Constipation: 
CT A/P with significant amounts of stool throughout large bowel 
suggesting constipation. Treated with laxatives.

# HTN:
Continued diltiazem 240 mg daily and Enalapril 10 mg daily

# Recurrent UTI:
Restarted intravaginal estradiol and methenamine at discharge.

================================
TRANSITIONAL ISSUES

- oncology team will follow-up liver biopsy results and contact 
patient to schedule appointment this week

- f/u CA ___

- consider cardiac evaluation with echo and/or stress given 
recent episode of chest pain and slight troponinemia

- low threshold for repeat CT if sudden worsening of RUQ pain to 
rule out post-biopsy bleed

================================
>30 minutes in patient care and coordination of discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 10 mg PO QPM 
2. methenamine hippurate 1 gram oral BID 
3. Diltiazem Extended-Release 240 mg PO DAILY 
4. Enalapril Maleate 10 mg PO DAILY 
5. estradiol 0.01 % (0.1 mg/gram) vaginal 2X/WEEK 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen 325 mg 3 tablet(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
2.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line 
RX *bisacodyl 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  Senna 17.2 mg PO QHS:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth once a day Disp 
#*30 Tablet Refills:*0 
5.  TraMADol 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*28 Tablet Refills:*0 
6.  Diltiazem Extended-Release 240 mg PO DAILY  
7.  Enalapril Maleate 10 mg PO DAILY  
8.  estradiol 0.01 % (0.1 mg/gram) vaginal 2X/WEEK  
9.  methenamine hippurate 1 gram oral BID  
10.  Rosuvastatin Calcium 10 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pancreatic and liver masses
Elevated troponin
Constipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital because of a pain on your 
right side. Unfortunately the CT scan and MRI show that you most 
likely have a cancer coming the pancreas or somewhere else in 
the abdomen, and spreading to the liver. You had a biopsy from 
one of the liver lesions to confirm this and determine what type 
of cancer it is. Because the biopsy takes a few days or up to a 
week to process, you will be contacted by one of our oncologists 
with the results after you have return home, and arrangements 
will be made for you to see an oncologist to discuss treatment. 

There was also some concern that you could have a heart disease, 
such as coronary artery disease, which may have caused your 
chest pain last week and the abnormalities in your blood tests. 
However after discussing with you further, we decided to hold 
off on further testing until you see your outpatient doctors. We 
recommend calling your outpatient doctor this week to set up a 
follow-up appointment. 

 
Followup Instructions:
___